US07951822B2
i) Preparation of 5-(4-bromobutoxy)-4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran
A N,N-Dimethylformamide (10 mL) solution of 4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran-5-ol (800 mg, 2.55 mol), 1,4-dibromobutane (2.75 mL, 12.73 mmol) and potassium carbonate (528 mg, 3.82 mmol) was stirred at room temperature overnight. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated in vacuum. The obtained residue was purified by silica-gel column chromatography (hexane:ethyl acetate=50:1) and the title compound (1.136 g, 99%) was obtained as colorless oil.

reactant | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran-5-ol | 2.55 mol, 800 mg | C(CC)C1=C2COC(C2=CC=C1O)(C(F)(F)F)C(F)(F)F | C13H12F6O2
reactant | 1,4-dibromobutane | 12.73 mmol, 2.75 mL | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 3.82 mmol, 528 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-(4-bromobutoxy)-4-propyl-1,1-bis(trifluoromethyl)-1,3-dihydroisobenzofuran | 1.136 g, 99% | BrCCCCOC=1C(=C2COC(C2=CC1)(C(F)(F)F)C(F)(F)F)CCC | C17H19BrF6O2
